* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat May 18 17:39:01 2024
* Design path:          /home/vlsi/Desktop/final_fullCustom/S_DES/lib.defs
* Library:              S_DES
* Cell:                 Decode4x16
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt Nand_gate In1 In2 Out Gnd Vdd 
* Library name: Midterm_HHAF
* Cell name: Nand_gate
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=In2 TYPE=In
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=In1 TYPE=In

MMn1 Out In1 N_1 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=2700 $w=400 $h=600
MMn2 N_1 In2 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=1500 $w=400 $h=600
MMp1 Out In2 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5600 $y=5000 $w=400 $h=600
MMp2 Out In1 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3000 $y=5000 $w=400 $h=600
.ends

.subckt inverter In Out Gnd Vdd 
* Library name: LPC_ALU
* Cell name: inverter
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Out TYPE=Out
* PORT=In TYPE=In

MMn2 Out In Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4500 $y=3400 $w=400 $h=600
MMp2 Out In Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4500 $y=4100 $w=400 $h=600
.ends

.subckt AND_Final A B Out Gnd Vdd 
* Library name: S_DES
* Cell name: AND_Final
* View name: schematic
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=B TYPE=In
* PORT=A TYPE=In

Xinverter_1 N_1 Out Gnd Vdd inverter $ $x=5200 $y=2950 $w=1800 $h=900
XNand_gate_1 B A N_1 Gnd Vdd Nand_gate $ $x=3100 $y=2900 $w=1800 $h=1000
.ends

.subckt nor_2 A B Out Gnd Vdd 
* Library name: LPC_ALU
* Cell name: nor_2
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=A TYPE=In
* PORT=Gnd TYPE=Other
* PORT=B TYPE=In
* PORT=Out TYPE=Out

MMn1 Out A Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4200 $y=2600 $w=400 $h=600
MMn2 Out B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5500 $y=2600 $w=400 $h=600
MMp1 N_1 A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4900 $y=5100 $w=400 $h=600
MMp2 Out B N_1 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4900 $y=4400 $w=400 $h=600
.ends

.subckt Decoder_2to4 A0 A1 D0 D1 D2 D3 Gnd Vdd 
* Library name: LPC_ALU
* Cell name: Decoder_2to4
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=A1 TYPE=In
* PORT=D0 TYPE=Out
* PORT=A0 TYPE=In
* PORT=D1 TYPE=Out
* PORT=D2 TYPE=Out
* PORT=D3 TYPE=Out

Xinverter_1 A0 N_1 Gnd Vdd inverter $ $x=1950 $y=5200 $w=900 $h=1800 $r=90
Xinverter_2 A1 N_2 Gnd Vdd inverter $ $x=3150 $y=5200 $w=900 $h=1800 $r=90
Xnor_2_1 A1 A0 D0 Gnd Vdd nor_2 $ $x=7300 $y=4200 $w=1800 $h=600
Xnor_2_2 A1 N_1 D1 Gnd Vdd nor_2 $ $x=7300 $y=3100 $w=1800 $h=600
Xnor_2_3 A0 N_2 D2 Gnd Vdd nor_2 $ $x=7300 $y=2100 $w=1800 $h=600
Xnor_2_4 N_2 N_1 D3 Gnd Vdd nor_2 $ $x=7300 $y=1000 $w=1800 $h=600
.ends

.subckt Decode2x4_E A0 A1 E O0 O1 O2 O3 Gnd Vdd 
* Library name: S_DES
* Cell name: Decode2x4_E
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=O1 TYPE=Out
* PORT=O3 TYPE=Out
* PORT=O2 TYPE=Out
* PORT=E TYPE=InOut
* PORT=O0 TYPE=Out
* PORT=A1 TYPE=In
* PORT=A0 TYPE=In

XAND_1 E N_4 O3 Gnd Vdd AND_Final $ $x=6650 $y=3650 $w=900 $h=500
XAND_2 E N_3 O2 Gnd Vdd AND_Final $ $x=6650 $y=2750 $w=900 $h=500
XAND_3 E N_2 O1 Gnd Vdd AND_Final $ $x=6650 $y=1850 $w=900 $h=500
XAND_4 E N_1 O0 Gnd Vdd AND_Final $ $x=6650 $y=950 $w=900 $h=500
XDecoder_2to4_1 A0 A1 N_1 N_2 N_3 N_4 Gnd Vdd Decoder_2to4 $ $x=2306 $y=3550 $w=900 $h=700
.ends

.subckt Decode4x16 A0 A1 A2 A3 O0 O1 O2 O3 O4 O5 O6 O7 O8 O9 O10 O11 O12 O13 O14 O15 Gnd Vdd 
* Library name: S_DES
* Cell name: Decode4x16
* View name: schematic
* PORT=O12 TYPE=Out
* PORT=A3 TYPE=In
* PORT=O0 TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=O15 TYPE=Out
* PORT=O14 TYPE=Out
* PORT=O13 TYPE=Out
* PORT=O7 TYPE=Out
* PORT=O3 TYPE=Out
* PORT=O6 TYPE=Out
* PORT=O5 TYPE=Out
* PORT=O1 TYPE=Out
* PORT=O2 TYPE=Out
* PORT=A1 TYPE=In
* PORT=O9 TYPE=Out
* PORT=A0 TYPE=In
* PORT=O8 TYPE=Out
* PORT=A2 TYPE=In
* PORT=O4 TYPE=Out
* PORT=O11 TYPE=Out
* PORT=O10 TYPE=Out

XDecode2x4_E_1 A0 A1 N_1 O0 O1 O2 O3 Gnd Vdd Decode2x4_E $ $x=5100 $y=5600 $w=900 $h=900
XDecode2x4_E_2 A0 A1 N_2 O4 O5 O6 O7 Gnd Vdd Decode2x4_E $ $x=5100 $y=4200 $w=900 $h=900
XDecode2x4_E_3 A0 A1 N_3 O8 O9 O10 O11 Gnd Vdd Decode2x4_E $ $x=5100 $y=2750 $w=900 $h=900
XDecode2x4_E_4 A0 A1 N_4 O12 O13 O14 O15 Gnd Vdd Decode2x4_E $ $x=5200 $y=1300 $w=900 $h=900
XDecoder_2to4_1 A2 A3 N_1 N_2 N_3 N_4 Gnd Vdd Decoder_2to4 $ $x=1700 $y=2650 $w=900 $h=700 $r=180 $m
.ends



